US06756378B2
To a stirred solution of 1-(tert-butoxycarbonyl)-2-[2-(4-ethoxycarbonylphenyl)ethynyl]pyrrolidine (2.75 g, 8 mmol) in CH2Cl2 (5 ml) was added TFA (5 mL), and the resulting mixture was stirred overnight. The mixture was concentrated in vacuo and made basic with sat. NaHCO3 and extracted with CHCl3. The extract was washed with brine, dried over MgSO4, evaporated to give 1.95 g (q.y.) 2-[2-(4-ethoxycarbonylphenyl)ethynyl]pyrrolidine as a light yellow oil. 1H-NMR (CDCl3) δ1.38 (3 H, t, J=6.8 Hz), 1.82-2.16 (4 H, m), 3.01-3.48 (2 H, m), 4.00-4.11 (1 H, m), 4.37 (2H, q, J=6.8 Hz), 4.54-4.77 (1 H, m), 7.44-7.46 (2 H, m), 7.95-7.97 (2 H, m).

reactant | 1-(tert-butoxycarbonyl)-2-[2-(4-ethoxycarbonylphenyl)ethynyl]pyrrolidine | 8 mmol, 2.75 g | C(C)(C)(C)OC(=O)N1C(CCC1)C#CC1=CC=C(C=C1)C(=O)OCC | C20H25NO4
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | 2-[2-(4-ethoxycarbonylphenyl)ethynyl]pyrrolidine | 1.95 g | C(C)OC(=O)C1=CC=C(C=C1)C#CC1NCCC1 | C15H17NO2
